US06610723B2
3-Chloromethyl-5-(3,4-dimethyl-phenyl)-2-methyl-pyridine Hydrochloride (1:1)
The title compound, MS: m/e=245.1 (M+) was obtained as a yellow solid (98% yield) by the reaction of [5-(3,4-dimethyl-phenyl)-2-methyl-pyridin-3-yl]-methanol hydrochloride (1:1) with thionyl chloride at 20° C. for 1 h then 2 h at reflux.

reactant | [5-(3,4-dimethyl-phenyl)-2-methyl-pyridin-3-yl]-methanol hydrochloride | Cl.CC=1C=C(C=CC1C)C=1C=C(C(=NC1)C)CO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-Chloromethyl-5-(3,4-dimethyl-phenyl)-2-methyl-pyridine Hydrochloride | Cl.ClCC=1C(=NC=C(C1)C1=CC(=C(C=C1)C)C)C | InChI=1S/C15H16ClN.ClH/c1-10-4-5-13(6-11(10)2)15-7-14(8-16)12(3)17-9-15;/h4-7,9H,8H2,1-3H3;1H
